OpAmpISet
*SPICE Netlist generated by Advanced Sim server on 5/01/2009 3:27:56 PM

*Schematic Netlist:
RF INV OUTPUT 100k
RI INPUT INV 10k
RL OUTPUT 0 25k
RSET NSET 0 12MEG
XU1 0 INV VCC VEE OUTPUT NSET LM4250
V1 VCC 0 12V
V2 VEE 0 -12V
Vin INPUT 0 DC 0 SIN(0 0.1 10k 0 0) AC 1 0

.SAVE 0 INPUT INV NSET OUTPUT VCC VEE V1#branch V2#branch Vin#branch @V1[z]
.SAVE @V2[z] @Vin[z] @RF[i] @RI[i] @RL[i] @RSET[i] @RF[p] @RI[p] @RL[p] @RSET[p]
.SAVE @V1[p] @V2[p] @Vin[p]

*PLOT AC -1 1 A=INPUT A=OUTPUT

*Selected Circuit Analyses:
.AC DEC 100 1 1E8

*Models and Subcircuits:
.SUBCKT LM4250      3   2   6   4   7   8
* PINOUT ORDER +IN -IN V+ V- OUT SET
* Features:
* +/-1V to +/-18V power supply operation
* Input offset current (Iset=1uA) =      3nA
* Low offset voltage (typ) =             2mV
* Slew rate =                         .2V/uS
* Gain-bandwidth product =            230kHz
* Max supply current (Iset=10uA) =     100uA
* Short circuit protected
* NOTE: - Noise is not modeled.
*       - Asymmetrical gain is not modeled.
* Input capacitors.
CI1   3  4  2P
CI2   2  4  2P
* Primary pole=939.2mHz.
C3    98 20 169.3N
* Secondary pole=276kHz.
C4    13 14 75.3P
C6    4  9  3P
* Third pole=795kHz.
C7    98 19 200E-15
D1    10 8  DX
D2    7  6  DX
D3    4  7  DX
D4    4  26 DX
D5    26 7  DX
D6    20 24 DX
D7    25 20 DX
D8    22 0  DX
D9    0  21 DX
D10   7  27 DX
D11   27 6  DX
* Determines dc CMRR.
ECMRR 1  3  16        49 1.0
EH    97 98 6         49 1.0
EN    0  96 0         4  1.0
EP    97 0  6         0  1.0
E1    97 18 6         19 1.0
F1    6  0  VA2       1
F2    0  4  VA3       1
F3    23 0  VA1       1
F4    6  9  V1        1.0
F5    6  4  POLY(2)   V1 V5 0 8.0 0 0 1
* Sets -Isc
F6    4 26  POLY(1)   VA1 -1E-2 -1
* Sets +Isc
F7    27 6  POLY(1)   VA1 -1.2E-2 1
G1    98 20 14        13 1.0
G2    98 19 20        49 1U
G4    98 16 POLY(2) 3 49 2 49 0 1.581E-7 1.581E-7
G5    15 4  6         4  0.0333
* CMRR zero.
L2    16 17 73.1M
* IS of QX1/QX2 and R1/R2 determines Vos.
Q1    13 1  11        QX1
Q2    14 2  12        QX2
R1    9  11 9.6K
R2    9  12 10K
R3    14 4  3.83K
R4    13 4  3.83K
R5    98 20 1E6
R8    6  49 1E8
R9    49 4  1E8
R12   98 19 1E6
R13   98 17 1K
* Output resistance.
R22   28 7  581
VA1   18 28 0V
VA2   21 23 0V
VA3   23 22 0V
V1    6  10 0V
V2    97 24 1.5V
V3    25 96 1.5V
V5    4  15 0V
.MODEL QX1 PNP (IS=4.625E-16 BF=270 VAF=60 IKF=1E-3 NE=1.15 ISE=.63E-16)
.MODEL QX2 PNP (IS=5E-16 BF=300 VAF=60 IKF=1E-3 NE=1.15 ISE=.63E-16)
.MODEL DX D(IS=5E-15)
.ENDS LM4250

.END
